US04767756
C. 7-Chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
To a solution of [2-(2-amino-5-chlorophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (23.2 g, 59.2 mmole) in methanol (200 ml) was added a 25% solution of sodium methoxide in methanol (16 ml, 69.97 mmole). The solution was refluxed for 3 hours under argon. The reaction was cooled to room temperature and treated with 200 ml of 1N hydrochloric acid. The white precipitate was filtered and washed with water, methanol, and dried in vacuo to yield 19.5 g of the title compound, melting point 189°-190.5° C.

reactant | [2-(2-amino-5-chlorophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 59.2 mmole, 23.2 g | NC1=C(C=C(C=C1)Cl)CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC | C20H22ClNO5
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 1N, 200 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 69.97 mmole, 16 ml | CO | CH4O
product | 7-Chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 19.5 g | ClC=1C=CC2=C(CC(C(C(N2)=O)C(=O)OC)C2=CC=C(C=C2)OC)C1 | C19H18ClNO4
